US08669234B2
Methyl chloroformate (192 μL, 2.5 mmol) was added to a solution of 2-(3-amino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester (353 mg, 1.6 mmol) and 4-methylmorpholine (907 μL, 8.24 mmol) in dichloromethane (10 mL). After 15 minutes the mixture was diluted with dichloromethane (20 mL) and washed with water (10 mL), and aqueous hydrogen chloride (0.5 N, 10 mL). The organic phase was dried over sodium sulfate and filtered. The solvent was removed under reduced pressure to provide 2-(3-methoxycarbonylamino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester (332 mg, 1.2 mmol, 75%). C12H20N2O5 calculated 272.1 observed [M+1]+ 273.0; rt=1.82 min.

reactant | Methyl chloroformate | 2.5 mmol, 192 μL | ClC(=O)OC | C2H3ClO2
reactant | 2-(3-amino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester | 1.6 mmol, 353 mg | C(C)OC(C(C)N1C(C(CCC1)N)=O)=O | C10H18N2O3
reactant | 4-methylmorpholine | 8.24 mmol, 907 μL | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(3-methoxycarbonylamino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester | 1.2 mmol, 332 mg, 75% | C(C)OC(C(C)N1C(C(CCC1)NC(=O)OC)=O)=O | C12H20N2O5
